US07902367B2
Step 82c) Methyl 3-[3-[[4-(4-fluorophenoxy)phenyl]methoxymethyl]piperidin-1-yl]benzoate
Using 3-[4-(4-fluorophenoxy)benzyloxymethyl]piperidine (35.7 mg, 0.113 mmol) and 3-(methoxycarbonyl)phenylboric acid (40.7 mg, 0.226 mmol), the same procedure was followed as in Example 2 to give 29.1 mg (57%) of the desired compound as a colorless oil.

reactant | 3-[4-(4-fluorophenoxy)benzyloxymethyl]piperidine | 0.113 mmol, 35.7 mg | FC1=CC=C(OC2=CC=C(COCC3CNCCC3)C=C2)C=C1 | C19H22FNO2
reactant | 3-(methoxycarbonyl)phenylboric acid | 0.226 mmol, 40.7 mg | COC(=O)C=1C=C(C=CC1)OB(O)O | C8H9BO5
product | Methyl 3-[3-[[4-(4-fluorophenoxy)phenyl]methoxymethyl]piperidin-1-yl]benzoate | 29.1 mg, 57% | FC1=CC=C(OC2=CC=C(C=C2)COCC2CN(CCC2)C=2C=C(C(=O)OC)C=CC2)C=C1 | C27H28FNO4
